US06573266B1
To a solution of N-t-butoxycarbonyl-D-alanine (5.6 g, 30 mmol, [α]D+23° (c=2, CH3CO2H)) in anhydrous tetrahydrofuran (150 mL) under N2 at 0° C. was added N-methylmorpholine (3.0 g, 30 mmol), followed by the addition of isobutylchloroformate (3.7 mL, 30 mmol), resulting in the formation of a white solid. The resulting suspension was stirred at 0° C. for 15 minutes, and then at ambient temperature for 1 hour. A solution of (2R)-3-benzyloxy-2-(N-(4-fluorobenzyl)-amino)propanoic acid methyl ester (7.5 g, 24 mmol, in 50 mL of anhydrous tetrahydrofuran) was added to the mixture and the resulting mixture was stirred at ambient temperature. After 15 hours, the mixture was filtered through Celite (tetrahydrofuran). The filtrate was concentrated in vacuo to afford a yellow liquid, which was dissolved in ethyl acetate, washed with water and then with brine. The organic phase was separated then dried over MgSO4, filtered, and concentrated in vacuo. Purification by flash column chromatography on silica gel afforded 7.3 g (63% yield) of (2R)-3-benzyloxy-2-(N-(4-fluorobenzyl)-N-(((1S)-1-(t-butoxy-carbonylamino)ethyl)carbonyl)amino)propanoic acid methyl ester, a compound of formula (Q), as a clear oil; NMR (CDCl3) 7.4-7.2 (m, 7), 7.0 (dd, 2), 5.3 (d, 2), 4.9-4,.3 (m, 5), 4.1-3.7 (m, 4), 1.6 (s, 9), 1.0 (d, 3) ppm.

reactant | N-t-butoxycarbonyl-D-alanine | 30 mmol, 5.6 g | C(C)(C)(C)OC(=O)N[C@H](C)C(=O)O | C8H15NO4
reactant | N-methylmorpholine | 30 mmol, 3.0 g | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 30 mmol, 3.7 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | (2R)-3-benzyloxy-2-(N-(4-fluorobenzyl)-amino)propanoic acid methyl ester | 24 mmol, 50 mL, 7.5 g | COC([C@@H](COCC1=CC=CC=C1)NCC1=CC=C(C=C1)F)=O | C18H20FNO3
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-3-benzyloxy-2-(N-(4-fluorobenzyl)-N-(((1S)-1-(t-butoxy-carbonylamino)ethyl)carbonyl)amino)propanoic acid methyl ester | 7.3 g, 63% yield | COC([C@@H](COCC1=CC=CC=C1)N(C(=O)[C@H](C)NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)F)=O | C26H33FN2O6
